US08222243B2
(4-Hydroxy-4-trifluoromethyl-piperidin-1-yl)-[5-(4-methyl-5-trifluoromethyl-isoxazol-3-yl)-thiophen-2-yl]-methanone
Prepared from 5-(4-Methyl-5-trifluoromethyl-isoxazol-3-yl)-thiophene-2-carboxylic acid and 4-hydroxy-4-trifluoromethyl-piperdine by the method described in Example 2 Method B reversing the order of addition such that solid acid chloride was added to a THF solution of triethylamine and piperdine derivative. The reaction mixture was evaporated to a solid, triturated and filtered with the aid of water, then washed with a 1 N aqueous hydrochloric acid solution followed by water. The solid was air dried and then chromatographed on silica gel with EtOAc/hexanes (50%) as eluant to afford product as a colorless solid (53 mg, 49%). 1H NMR (DMSO-d6) 1.70-1.72 (m, 4 H), 2.34 (d, J=1.8, 3 H), 3.24 (br, 2 H), 4.19 (br, 2 H), 6.17 (s, 1 H), 7.56 (d, J=4.0, 1 H), 7.65 (d, J=4.0, 1 H). 19F NMR −83.5, −63.1. LC/MS 6.40 min, [M+1]+429.

reactant | 5-(4-Methyl-5-trifluoromethyl-isoxazol-3-yl)-thiophene-2-carboxylic acid | CC=1C(=NOC1C(F)(F)F)C1=CC=C(S1)C(=O)O | C10H6F3NO3S
reactant | 4-hydroxy-4-trifluoromethyl-piperdine | OC1(CCNCC1)C(F)(F)F | C6H10F3NO
reactant | THF | C1CCOC1 | C4H8O
reactant | piperdine | N1CCCCC1 | C5H11N
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | (4-Hydroxy-4-trifluoromethyl-piperidin-1-yl)-[5-(4-methyl-5-trifluoromethyl-isoxazol-3-yl)-thiophen-2-yl]-methanone | 53 mg, 49% | OC1(CCN(CC1)C(=O)C=1SC(=CC1)C1=NOC(=C1C)C(F)(F)F)C(F)(F)F | C16H14F6N2O3S
